US07514567B2
(a) 4-Bromo-2-(2-pyridyl)thiophene
2,4-Dibromothiophene (695 mg, 2.87 mmol), 2-(tri-n-butylstannyl)pyridine (830 mg, 1.92 mmol), and tetrakis(triphenylphosphine)palladium (0) (220 mg, 0.19 mmol) were refluxed in 3 mL of toluene at 120° C. overnight. After filtrated out of solid residue, the reaction mixture was purified by flash chromatography using a gradient of ethyl acetate in hexane to give a beige solid as the title compound (340 mg), m/z 240, 242 (MH+).

reactant | 2,4-Dibromothiophene | 2.87 mmol, 695 mg | BrC=1SC=C(C1)Br | C4H2Br2S
reactant | 2-(tri-n-butylstannyl)pyridine | 1.92 mmol, 830 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.19 mmol, 220 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Bromo-2-(2-pyridyl)thiophene | 340 mg | BrC=1C=C(SC1)C1=NC=CC=C1 | C9H6BrNS
